### ISSUE TITLE
bug: MVarId.isIndependentOf doesn't check local context.

### ISSUE THREAD

**Issue by joehendrix** [leanprover/std4#424]
[`Lean.MVarId.isIndependentOf`](https://github.com/leanprover/std4/blob/baf6defee1fe881ae535519c0776f37f6ef08603/Std/Lean/Meta/Basic.lean#L252-L294) doesn't check the local context of an mvar and this leads to it missing dependencies.

Here's a file for demonstrating the issue that uses a tactic `check_indep` to print out the independence result and the local context.

This could perhaps be fixed with a documentation update about it's limitations, but it is not clear if that is sufficient for it's actual use.

```lean
import Std.Tactic.PermuteGoals

open Lean Meta Elab.Tactic

elab "check_indep" : tactic => do
  match ← getGoals with
  | [] => throwError "Expected goal"
  | g :: l =>
    let res := if ←g.isIndependentOf l then "" else "not "
    let t ← instantiateMVars (← g.getType)
    IO.println f!"{←ppExpr (.mvar g)} : {←ppExpr t} is {res}independent of:"
    l.forM fun g' => do
      IO.println f!"  {←ppExpr (.mvar g')} : {←ppExpr (← g'.getType)}"
      let ppD (l : LocalDecl) : TacticM PUnit := do
        IO.println f!"    {←ppExpr (.fvar l.fvarId)} : {←ppExpr l.type}"
      let _ ← (←g'.getDecl).lctx.forM ppD
      pure ()

-- It correctly infers this one.
example : ∃ (n : Nat), ∀(x : Fin n), x.val = 0 := by
  apply Exists.intro
  intro x
  swap
  check_indep
  exact 0
  revert x
  intro ⟨x, lt⟩
  contradiction

-- It incorrectly infers this one since the coupling between x.val and y
-- is via an assumption.
example : ∃ (n : Nat), ∀(x : Fin n) (y : Nat), x.val = y → y = 0 := by
  apply Exists.intro
  intro x y p
  swap
  check_indep
  exact 0
  revert x
  intro ⟨x, lt⟩
  contradiction
```

I discovered this when working on #423.
